US06180635B2
b) Diethyl 2-(2-methylpropyl)amino-5-phenylmethylthiophene-3,4-dicarboxylate
Prepared from sodium borohydride (2.2 g) and diethyl 2-amino-5-phenylmethylthiophene-3,4-dicarboxylate (4.10 g) in 2-methylpropanoic acid (20 ml) following the method of Example 3 step b to give the subtitle compound (2.39 g) as an oil.

reactant | sodium borohydride | 2.2 g | [BH4-].[Na+]
reactant | diethyl 2-amino-5-phenylmethylthiophene-3,4-dicarboxylate | 4.10 g | NC=1SC(=C(C1C(=O)OCC)C(=O)OCC)CC1=CC=CC=C1 | C17H19NO4S
solvent | 2-methylpropanoic acid | 20 ml | CC(C(=O)O)C | C4H8O2
product | Diethyl 2-(2-methylpropyl)amino-5-phenylmethylthiophene-3,4-dicarboxylate | 2.39 g | CC(CNC=1SC(=C(C1C(=O)OCC)C(=O)OCC)CC1=CC=CC=C1)C | C21H27NO4S
